US04885386
Step B: Preparation of Ethyl β-(3-chloro-2,4,5-trifluorophenyl)-β-oxopropionate
To a mixture of 2.64 g (20 mmol) of malonic acid monoethyl ester, 0.10 g (catalytic amount) of dipyridyl, and 50 ml of dry tetrahydrofuran at -30° C. is added 13 ml of n-butyllithium (1.55 M, 20.2 mmol) at a rapid rate. When addition is complete, the solution is warmed to -5° C., and another 13 ml of n-butyllithium (1.55 M, 20.2 mmol) is added dropwise until a pale pink color persists for ten minutes. The suspension is then cooled to -78° C. To this mixture is added a solution of 2.3 g (10 mmol) of 3-chloro-2,4,5-trifluorobenzoyl chloride in 3 ml of dry tetrahydrofuran. The reaction mixture is stirred at -78° C. for one hour, then warmed to -35° C. and poured into a mixture of ice (50 g) and 6 N hydrochloric acid (4 ml). This solution is extracted with dichloromethane, and the extracts are washed with water, 5% aqueous sodium bicarbonate, dilute hydrochloric acid, and water. The organic phase is dried over magnesium sulfate, filtered, and concentrated to give 2.5 g of the title compound as an orange solid.

reactant | malonic acid monoethyl ester | 20 mmol, 2.64 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | n-butyllithium | 20.2 mmol, 1.55 M, 13 ml | C(CCC)[Li]
reactant | n-butyllithium | 20.2 mmol, 1.55 M, 13 ml | C(CCC)[Li]
reactant | 3-chloro-2,4,5-trifluorobenzoyl chloride | 10 mmol, 2.3 g | ClC=1C(=C(C(=O)Cl)C=C(C1F)F)F | C7HCl2F3O
reactant | hydrochloric acid | 6 N, 4 ml | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl β-(3-chloro-2,4,5-trifluorophenyl)-β-oxopropionate | 2.5 g | ClC=1C(=C(C=C(C1F)F)C(CC(=O)OCC)=O)F | C11H8ClF3O3
